US05741926
Methyl 4-((Bromoacetyl)amino)benzoate
A solution of methyl 4-aminobenzoate (5.0 g, 33 mmol) in a mixture of anhydrous DMF (30 mL) and anhydrous dioxane (30 mL) in a 250 mL 3-necked round-bottomed flask equipped with a constant addition funnel (60 mL) was cooled to 0° C. using an ice-bath. Bromoacetyl bromide (6.66 g, 2.9 mL, 33 mmol) was added dropwise, keeping the internal temperature between 0° to 5° C. over a 1/2 h period. After the addition the bromoacetyl bromide was completed, the solution was warmed to rt, stirred overnight, and then the solution was slowly poured into 500 mL of ice-water, causing a solid to precipitate. The precipitate was filtered, washed with water, and then dried in a vacuum dessicator overnight to afford 6.83 g (76%) of the title compound as a pale brown solid; mp 153°-155° C.: 1H NMR (DMSO-d6) δ10.72 (s, 1H), 7.93 (d, J=8.8, 3H), 7.72 (d, J=8.8, 2H), 4.07 (s, 2H), 3.82 (s, 3H) 13C NMR (DMSO-d6) δ165.69, 165.36, 124.91, 130.26, 124.49, 118.64, 51.92, 30.25; MS (EI, m/z) 271 (M+ ).

reactant | methyl 4-aminobenzoate | 33 mmol, 5.0 g | NC1=CC=C(C(=O)OC)C=C1 | C8H9NO2
reactant | DMF | 30 mL | CN(C)C=O | C3H7NO
reactant | Bromoacetyl bromide | 33 mmol, 2.9 mL, 6.66 g | BrCC(=O)Br | C2H2Br2O
solvent | dioxane | 30 mL | O1CCOCC1 | C4H8O2
product | Methyl 4-((Bromoacetyl)amino)benzoate | 6.83 g, 76% | BrCC(=O)NC1=CC=C(C(=O)OC)C=C1 | C10H10BrNO3
